US07144908B2
vii) 6-{4-[3-(2,5-Dioxoimidazolidin-1-yl)phenyl]butoxy}hexyl methanesulfonate
3-(3-{4-[(6-Hydroxyhexyl)oxy]butyl}phenyl)imidazolidine-2,4-dione (2.67 g) in CH2Cl2 (50 ml) and triethylamine (1.2 ml) was treated with methanesulfonyl chloride (1.22 ml) and the mixture was stirred at 20° C. for 1.5 h. The mixture was diluted with CH2Cl2 and washed with 2M HCl, NaHCO3, dried and purified by chromatography on Biotage (40 g) eluting with EtOAc-petroleum ether(1:1) and then with 2% MeOH—CH2Cl2 to give the title compound (1.186 g) ES+ve 427 (MH)+.

reactant | 3-(3-{4-[(6-Hydroxyhexyl)oxy]butyl}phenyl)imidazolidine-2,4-dione | 2.67 g | OCCCCCCOCCCCC=1C=C(C=CC1)N1C(NCC1=O)=O | C19H28N2O4
reactant | methanesulfonyl chloride | 1.22 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
product | 6-{4-[3-(2,5-Dioxoimidazolidin-1-yl)phenyl]butoxy}hexyl methanesulfonate | 1.186 g | CS(=O)(=O)OCCCCCCOCCCCC1=CC(=CC=C1)N1C(NCC1=O)=O | C20H30N2O6S
